US08212041B2
To a stirring solution of 4-bromo-2-chlorobenzoic acid (3.45 g, 15 mmol) and DIEA (7.7 ml, 44 mmol) in DMF (30 mL) was added HATU (6.1 g, 16 mmol) at 23° C. under nitrogen. Darkened suspension stirred for 1 h, then added n,o-dimethylhydroxylamine hydrochloride (2.1 g, 22 mmol). Solution stirred overnight at 23° C. Reaction then partitioned between 2.5% NaHCO3 (250 mL) and diethyl ether (100 mL). Aqueous further extracted with ether (2×50 mL). Combined ethereal extracts dried over MgSO4, then concentrated an amber oil under reduced pressure. 4-bromo-2-chloro-N-methoxy-N-methylbenzamide isolated as a light amber oil.

reactant | 4-bromo-2-chlorobenzoic acid | 15 mmol, 3.45 g | BrC1=CC(=C(C(=O)O)C=C1)Cl | C7H4BrClO2
reactant | DIEA | 44 mmol, 7.7 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 16 mmol, 6.1 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 4-bromo-2-chloro-N-methoxy-N-methylbenzamide | BrC1=CC(=C(C(=O)N(C)OC)C=C1)Cl | C9H9BrClNO2
